US07687490B2
c) 2-Amino-4-carbamoyl-5-((Z)-2-tritylthioethen-1-yl)thiazole
In the same manner as in step b) in Example 3 and step c) in Example 3, 197 mg of the title compound was prepared from 501 mg of 2-amino-4-ethoxycarbonyl-5-((Z)-2-tritylthioethen-1-yl)thiazole and 8 ml of a 0.5 M ammonia/dioxane solution.

reactant | 2-amino-4-ethoxycarbonyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | 501 mg | NC=1SC(=C(N1)C(=O)OCC)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N2O2S2
reactant | ammonia dioxane | 0.5 M | N.O1CCOCC1
product | 2-Amino-4-carbamoyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | 197 mg | NC=1SC(=C(N1)C(N)=O)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3OS2
